US09340538B2
Step B: 2-(morpholin-3-ylmethyl)propane-1,3-diol
2-((4-benzylmorpholin-3-yl)methyl)propane-1,3-diol (0.18 g, 0.68 mmol) was reacted with Pd/C (10%, 25 mg) according to the procedure as described in Example 34, Step C to give the title compound as colorless oil (0.1 g, 83%). The compound was characterized by the following spectroscopic data:

reactant | 2-((4-benzylmorpholin-3-yl)methyl)propane-1,3-diol | 0.68 mmol, 0.18 g | C(C1=CC=CC=C1)N1C(COCC1)CC(CO)CO | C15H23NO3
catalyst | Pd/C | 25 mg | [Pd] | Pd
product | 2-(morpholin-3-ylmethyl)propane-1,3-diol | 0.1 g, 83% | N1C(COCC1)CC(CO)CO | C8H17NO3
